US07253174B2
Synthesis of 3-{5-(Acetylamino)-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethy-l-benzamide
3-{5-Amino-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide (16 mg), acetyl chloride (3.5 mg), triethylamine (0.02 ml) were stirred in methylene chloride (0.2 mL) at room temperature for overnight. The product (2.8 mg) was purified by preparative thin layer chromatography. MS (m/z): 399 (M+H).

reactant | 3-{5-Amino-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 16 mg | NC=1C(=NC=NC1N(C)CC(C)(C)C)NC=1C=C(C(=O)NC)C=CC1C | C19H28N6O
reactant | acetyl chloride | 3.5 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.02 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 0.2 mL | C(Cl)Cl | CH2Cl2
product | 3-{5-(Acetylamino)-6-[(2,2-dimethyl-propyl)-methyl-amino]-pyrimidin-4-ylamino}-4,N-dimethy-l-benzamide | C(C)(=O)NC=1C(=NC=NC1N(C)CC(C)(C)C)NC=1C=C(C(=O)NC)C=CC1C | C21H30N6O2
